US05650422
A mixture of 2-benzyl-6-[2-(2-methoxyethoxy)-ethoxy]saccharin (2.05 g), methanol (75-100 mL), ammonium formate (1.10 g) and palladium on carbon (10%, 1.0 g) was heated under reflux for 40 minutes, allowed to cool and filtered. The filtrate was stripped of volatiles affording 6-[2-(2-methoxyethoxy)-ethoxy]saccharin ammonium salt, a mixture of which with chloromethyl phenyl sulfide (0.79 g) and dimethylformamide was heated for eight hours at 100° C., stirred overnight at room temperature, and poured into ice-water (600 mL). The resulting mixture was extracted with dichloromethane. The dichloromethane extract was washed with water and saturated aqueous sodium chloride solution, dried over sodium sulfate and stripped of dichloromethane. Column chromatography of the residue (1.70 g) on silica gel using dichloromethane-acetone (98:2) as eluant and again using dichloromethane-acetone (99:1) as eluant afforded 2-phenylthiomethyl-6-[2-(2-methoxyethoxy)-ethoxy]saccharin (0.96 g, 45% yield).

reactant | 2-benzyl-6-[2-(2-methoxyethoxy)-ethoxy]saccharin | 2.05 g | C(C1=CC=CC=C1)N1S(=O)(=O)C2=CC(=CC=C2C1=O)OCCOCCOC | C19H21NO6S
reactant | ammonium formate | 1.10 g | C(=O)[O-].[NH4+]
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
solvent | methanol | 75-100 mL | CO | CH4O
product | 6-[2-(2-methoxyethoxy)-ethoxy]saccharin ammonium salt | [NH4+].COCCOCCOC1=CC=C2C(NS(=O)(=O)C2=C1)=O | InChI=1S/C12H15NO6S.H3N/c1-17-4-5-18-6-7-19-9-2-3-10-11(8-9)20(15,16)13-12(10)14;/h2-3,8H,4-7H2,1H3,(H,13,14);1H3/p+1
